US08202876B2
2-Methyl-4-(6-methylsulfanyl-pyrimidin-4-yl)-2H-pyrazol-3-ylamine (120 mg, 0.54 mmol) is mixed with N-(3-Bromo-4-methyl-phenyl)-3-trifluoromethyl-benzamide (290 mg, 0.81 mmol), palladium acetate (25 mg, 0.1 mmol), Xantophos (100 mg, 0.17 mmol) and cesium carbonate (530 mg, 1.63 mmol). 10 mL of anhydrous 1,4-dioxane is added under a nitrogen environment and the mixture is subjected to microwave irradiation to 150° C. for one hour. The reaction mixture is then cooled to room temperature, treated with 100 mL THF, passed through a celite column and concentrated. The crude product is purified by ISCO chromatography eluting with ethyl acetate in hexanes from 10% to 100% to afford N-{4-Methyl-3-[2-methyl-4-(6-methylsulfanyl-pyrimidin-4-yl)-2H-pyrazol-3-ylamino]-phenyl}-3-trifluoromethyl-benzamide: MS m/z 499.1 (M+1).

reactant | 2-Methyl-4-(6-methylsulfanyl-pyrimidin-4-yl)-2H-pyrazol-3-ylamine | 0.54 mmol, 120 mg | CN1N=CC(=C1N)C1=NC=NC(=C1)SC | C9H11N5S
reactant | N-(3-Bromo-4-methyl-phenyl)-3-trifluoromethyl-benzamide | 0.81 mmol, 290 mg | BrC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C15H11BrF3NO
reactant | cesium carbonate | 1.63 mmol, 530 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.1 mmol, 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-{4-Methyl-3-[2-methyl-4-(6-methylsulfanyl-pyrimidin-4-yl)-2H-pyrazol-3-ylamino]-phenyl}-3-trifluoromethyl-benzamide | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)NC=1N(N=CC1C1=NC=NC(=C1)SC)C | C24H21F3N6OS
